US07067534B1
N-(3-{1-[6-(PHENYLSULFANYL)HEXYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure G and Scheme B1 using [(6-chlorohexyl)sulfanyl]benzene and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 437.4 (M+H)+.

reactant | [(6-chlorohexyl)sulfanyl]benzene | ClCCCCCCSC1=CC=CC=C1 | C12H17ClS
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[6-(PHENYLSULFANYL)HEXYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | C1(=CC=CC=C1)SCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C27H36N2OS
